US04816454
6-(4-(5-Oxo-perhydro-(1,4)-thiazepin-3-yl-carbonyl-amino)-phenyl)-5-methyl-4,5-dihydro-3(2H)-pyridazinone
5.3 g (0.03 mole) of 5-oxo-perhydro-(1,4)-thiazepine-3-carboxylic acid and 6.1 g (0.03 mole) of N,N'-carbonyl-diimidazole are stirred in 15 ml of dimethylformamide at 50° c. for 15 minutes. After addition of 4.9 g (0.03 mole) of 6-(4-amino-phenyl)-5-methyl-4,5-dihydro-3(2H)-pyridazinone, the mixture is stirred at room temperature for 12 hours and the product is filtered off with suction and dried.

reactant | 5-oxo-perhydro-(1,4)-thiazepine-3-carboxylic acid | 0.03 mole, 5.3 g | O=C1NC(CSCC1)C(=O)O | C6H9NO3S
reactant | 6-(4-amino-phenyl)-5-methyl-4,5-dihydro-3(2H)-pyridazinone | 0.03 mole, 4.9 g | NC1=CC=C(C=C1)C=1C(CC(NN1)=O)C | C11H13N3O
solvent | dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
product | 6-(4-(5-Oxo-perhydro-(1,4)-thiazepin-3-yl-carbonyl-amino)-phenyl)-5-methyl-4,5-dihydro-3(2H)-pyridazinone | O=C1NC(CSCC1)C(=O)NC1=CC=C(C=C1)C=1C(CC(NN1)=O)C | C17H20N4O3S
